US08377949B2
To a solution of {1-[(2-amino-benzoylamino)-methyl]-cyclohexyl}-acetic acid methyl ester (620 mg, 2.04 mmol) and 1,1′-carbonyldiimidazole (660 mg, 4.07 mmol) in THF (25 mL) is added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.6 mL, 4.01 mmol). The mixture is stirred at room temperature for 16 hours. The reaction mixture is diluted with EtOAc (100 mL) and is washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate, and is concentrated to afford the desired [1-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-cyclohexyl]-acetic acid methyl ester (670 mg, 99%).

reactant | {1-[(2-amino-benzoylamino)-methyl]-cyclohexyl}-acetic acid methyl ester | 2.04 mmol, 620 mg | COC(CC1(CCCCC1)CNC(C1=C(C=CC=C1)N)=O)=O | C17H24N2O3
reactant | 1,1′-carbonyldiimidazole | 4.07 mmol, 660 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.01 mmol, 0.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | [1-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-ylmethyl)-cyclohexyl]-acetic acid methyl ester | 670 mg, 99% | COC(CC1(CCCCC1)CN1C(NC2=CC=CC=C2C1=O)=O)=O | C18H22N2O4
